US04254127
To 1 part of a volume of 2 parts of thiophene in 40 parts of ethanol are added 4.1 parts of 1,3 -dihydro-1-(3-oxobutyl)-2H-benzimidazol-2-one, 5.2 parts of 1-(4-fluorophenyl)-2-(4-piperidinyl)ethanone hydrochloride, 2 parts of sodium hydrogen carbonate and 160 parts of methanol. The whole is hydrogenated in the Parr-apparatus at 60° C. with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is allowed to crystallize. The product is filtered off and dried, yielding 2.7 parts (33%) of 1-[3-[4-[2-(4-fluorophenyl)-2-oxoethyl]-1-piperidinyl]butyl]-1,3-dihydro-2H-benzimidazol-2-one; mp. 185.4° C.

reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | 1,3 -dihydro-1-(3-oxobutyl)-2H-benzimidazol-2-one | O=C(CCN1C(NC2=C1C=CC=C2)=O)C | C11H12N2O2
reactant | 1-(4-fluorophenyl)-2-(4-piperidinyl)ethanone hydrochloride | Cl.FC1=CC=C(C=C1)C(CC1CCNCC1)=O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 1-[3-[4-[2-(4-fluorophenyl)-2-oxoethyl]-1-piperidinyl]butyl]-1,3-dihydro-2H-benzimidazol-2-one | 33% | FC1=CC=C(C=C1)C(CC1CCN(CC1)C(CCN1C(NC2=C1C=CC=C2)=O)C)=O | C24H28FN3O2
